US05830892
Sodium hydride (60% dispersion in mineral oil, 24 mg, 0.6 mmol) was added to a stirred, cooled (0° C.) solution of [2S,3S]-1-tert-butoxycarbonyl-2-phenylpiperidin-3-ol (138 mg, 0.5 mmol) in N,N-dimethylformamide (2 ml). The mixture was stirred at room temperature for 30 minutes, cooled in ice and 1-(methanesulfonyloxymethyl)-3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)benzene (168 mg, 0.5 mmol) in N,N-dimethylformamide (2 ml) was added. The mixture was stirred at room temperature for 66 hours, saturated aqueous sodium hydrogen carbonate (20 ml) and water (10 ml) were added and the mixture was extracted with ethyl acetate (3×20 ml). The combined organic fractions were washed with saturated aqueous sodium hydrogen carbonate (4×20 ml) and brine (20 ml), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by MPLC on silica gel, eluting with ethyl acetate/hexane (40:60 increasing to 60:40) to give [2S,3S]-1-tert-butoxycarbonyl-2-phenyl-3-[3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)phenylmethoxy]piperidine as a pale yellow oil (133 mg, 51%), 1H (CDCl3) δ 7.69 (1H, s), 7.65 (1H, s), 7.52 (3H, m), 7.31-7.19 (3H, m), 5.68 (1H, br s), 4.77 (2H, s), 3.92 (2H, m), 2.78 (1H, m), 2.58 (3H, s), 2.00 (2H, m), 1.66 (2H, m), and 1.45 (9H, s). m/z 518 (M+H+).

reactant | Sodium hydride | 0.6 mmol, 24 mg | [H-].[Na+]
reactant | [2S,3S]-1-tert-butoxycarbonyl-2-phenylpiperidin-3-ol | 0.5 mmol, 138 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CCC1)O)C1=CC=CC=C1 | C16H23NO3
reactant | 1-(methanesulfonyloxymethyl)-3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)benzene | 0.5 mmol, 168 mg | CS(=O)(=O)OCC1=CC(=CC(=C1)C(F)(F)F)N1N=NN=C1C | C11H11F3N4O3S
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
product | [2S,3S]-1-tert-butoxycarbonyl-2-phenyl-3-[3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)phenylmethoxy]piperidine | 133 mg, 51% | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CCC1)OCC1=CC(=CC(=C1)C(F)(F)F)N1N=NN=C1C)C1=CC=CC=C1 | C26H30F3N5O3
